US04088644
A. Preparation of N-methyl-N-trifluoroacetyl-α-aminoacetophenone
Add 23.1 g. of trifluoroaceticanhydride to 14.9 g. of N-methyl-α-acetaminoacetophenone in 65 ml. of dichloromethane. Reflux the mixture for one hour. Wash the solution with saturated sodium bicarbonate and then with water. Dry over magnesium sulfate, filter and remove the solvent in vacuo and obtain the product of this step.

reactant | trifluoroaceticanhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | N-methyl-α-acetaminoacetophenone | CN(C(=O)C)CC(=O)C1=CC=CC=C1 | C11H13NO2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-methyl-N-trifluoroacetyl-α-aminoacetophenone | CN(CC(=O)C1=CC=CC=C1)C(C(F)(F)F)=O | C11H10F3NO2
